US09193728B2
3,4-Dihydro-7-methyl-2H-benzo[b][1,4]oxazine (280 mg, 1.87 mmol) was dissolved in 3N HCl (20 mL). Sodium nitrite (129 mg, 1.87 mmol) in water (1 mL) was added dropwise into the reaction mixture at 0° C. The reaction mixture was stirred for 2 h at RT. The reaction mixture was diluted with water (20 mL) and extracted with EtOAc. The organic layer was dried over sodium sulfate and concentrated under vacuum to obtain 270 mg of 7-Methyl-4-nitroso-3,4-dihydro-2H-benzo[1,4]oxazine (free base).

reactant | 3,4-Dihydro-7-methyl-2H-benzo[b][1,4]oxazine | 1.87 mmol, 280 mg | CC=1C=CC2=C(OCCN2)C1 | C9H11NO
reactant | Sodium nitrite | 1.87 mmol, 129 mg | N(=O)[O-].[Na+]
solvent | HCl | 3N, 20 mL | Cl | ClH
solvent | water | 1 mL | O | H2O
solvent | water | 20 mL | O | H2O
product | 7-Methyl-4-nitroso-3,4-dihydro-2H-benzo[1,4]oxazine | 270 mg | CC1=CC2=C(N(CCO2)N=O)C=C1 | C9H10N2O2
